US07317021B2
F1. 2,3-Diamino-5-p-tolyl-pyridine
A solution of 3.25 g of 2-amino-5-(p-tolyl)-3-nitro-pyridine (compound G3) and 325 mg of Pd/C (10%) in 260 ml of methanol is treated with hydrogen under vigorous stirring at room temperature for 18 h. The suspension is filtered with suction through a celite pad. The colorless filtrate is evaporated to dryness to afford 2.63 g of the pure title compound of m.p. 141° C. MS: 200.3 (MH+).

reactant | 2-amino-5-(p-tolyl)-3-nitro-pyridine | 3.25 g | NC1=NC=C(C=C1[N+](=O)[O-])C1=CC=C(C=C1)C | C12H11N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 260 ml | CO | CH4O
catalyst | Pd/C | 325 mg | [Pd] | Pd
product | 2,3-Diamino-5-p-tolyl-pyridine | 2.63 g | NC1=NC=C(C=C1N)C1=CC=C(C=C1)C | C12H13N3
